US05489592
2-Fluoro-5-(trifluoromethyl)benzaldehyde
A mixture of 18.7 g (0.0988 mol) of 2-fluoro-5-(trifluoromethyl)benzonitrile (prepared according to G. C. Finger et al., Chem. Comm., 1965, 430), 398 ml of 90% formic acid, 296 ml of water and 17.5 g of Raney nickel is heated for 5 hours at reflux and is then left standing overnight. The mixture is poured into 2.5 liters of water and extraction is carried out with methylene chloride (once 1 l and two times 500 ml). Filtration, washing with water, drying over Na2SO4, filtration and distillation are carried out. Yd.: 10.1 g (53%) B.p.14 =70°-72° C. IR: νc-o =1680 cm-1

reactant | 2-fluoro-5-(trifluoromethyl)benzonitrile | 0.0988 mol, 18.7 g | FC1=C(C#N)C=C(C=C1)C(F)(F)F | C8H3F4N
reactant | formic acid | 398 ml | C(=O)O | CH2O2
reactant | water | 296 ml | O | H2O
reactant | water | 2.5 liters | O | H2O
catalyst | Raney nickel | 17.5 g | [Ni] | Ni
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Fluoro-5-(trifluoromethyl)benzaldehyde | FC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4F4O
